US08809373B2
Diethyl 2-(2-allyl-5-oxocyclohexyl)malonate
Indium (114.8 mg, 1.0 mmol), diethyl bromomalonate (359.0 mg, 1.5 mmol), and TMSCl (0.6 mL, 5.0 mmol) were added to (±)-4-(2-propenyl)-2-cyclohexen-1-one (0.120 mg, 1.0 mmol) in anhydrous THF (1 mL) at room temperature under nitrogen atmosphere. After 30 minutes of stirring the reaction was quenched with saturated NaHCO3. The aqueous layer was extracted with diethyl ether and the combined organics were washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The product was identified by mass spectrometry, (ESI, Pos) m/z 391 (M+23).

reactant | Indium | 1.0 mmol, 114.8 mg | [In] | In
reactant | diethyl bromomalonate | 1.5 mmol, 359.0 mg | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | TMSCl | 5.0 mmol, 0.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (±)-4-(2-propenyl)-2-cyclohexen-1-one | 1.0 mmol, 0.120 mg | C(C=C)C1C=CC(CC1)=O | C9H12O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Diethyl 2-(2-allyl-5-oxocyclohexyl)malonate | C(C=C)C1C(CC(CC1)=O)C(C(=O)OCC)C(=O)OCC | C16H24O5
